US09290496B2
Step 4: Preparation of (+/−)-cis-tert-butyl 5-benzyl-3a-fluoro-4,6-dioxohexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
To a nitrogen purged solution of (+/−)-cis-2,5-dibenzyl-3a-fluorotetrahydropyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione (195 mg, 0.576 mmol) in EtOH (3 mL) was added 20% Pd(OH)2/C (60 mg). The reaction was evacuated and back-filled with hydrogen three times, then Boc2O (151 mg, 0.691 mmol, 1.2 eq) was added. The reaction was evacuated and back-filled with hydrogen again then run under a hydrogen atmosphere (balloon). After 1.5 hr, an additional 20% Pd(OH)2/C (40 mg) was added and stirred for 18 hr. The reaction mixture was filtered and washed with MeOH. The filtrate was concentrated and placed on the column eluting with 2 to 25 EtOAc/heptane to obtain the title compound (160 mg, 80% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.25-7.39 (m, 3 H) 7.21 (d, J=7.34 Hz, 2 H) 4.62 (s, 2 H) 3.89-4.08 (m, 2 H) 3.60-3.83 (m, 3 H) 1.37 (s, 9 H). m/z (APCI+) for C18H21FN2O4—C2H9O5 249.20 (M+H-Boc)+.

reactant | (+/−)-cis-2,5-dibenzyl-3a-fluorotetrahydropyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione | 0.576 mmol, 195 mg | C(C1=CC=CC=C1)N1C([C@@H]2CN(C[C@@]2(C1=O)F)CC1=CC=CC=C1)=O | C20H19FN2O2
reactant | Boc2O | 0.691 mmol, 151 mg, 1.2 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 60 mg | [OH-].[OH-].[Pd+2]
product | (+/−)-cis-tert-butyl 5-benzyl-3a-fluoro-4,6-dioxohexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 160 mg, 80% yield | C(C1=CC=CC=C1)N1C([C@@H]2[C@](C1=O)(CN(C2)C(=O)OC(C)(C)C)F)=O | C18H21FN2O4
